US05143920
3-Butyryl-4-chloro-8-methoxyquinoline (2 g, 8 mmol), 4-aminophenol (1.24 g, 11 mmol) and 1,4-dioxan (50 ml) were heated at reflux for 2 hours, then the solid filtered off and converted to free base. Recrystallisation from ethanol and then methanol gave 3-butyryl-4-(4-hydroxyphenylamino)-8-methoxyquinoline (1.6 g), m.p. 270°-272°.

reactant | 3-Butyryl-4-chloro-8-methoxyquinoline | 8 mmol, 2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 4-aminophenol | 11 mmol, 1.24 g | NC1=CC=C(C=C1)O | C6H7NO
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxyphenylamino)-8-methoxyquinoline | 1.6 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC=C(C=C1)O)OC | C20H20N2O3
